US07994189B2
a) 3,5-dibromo-4-(3-methoxybenzyloxy)-benzaldehyde
A mixture of 3,5-dibromo-4-hydroxybenzaldehyde (0.28 g), 1-bromomethyl-3-methoxybenzene (0.15 mL), potassium carbonate (0.29 g) and potassium iodide (42 mg) in 10 mL absolute ethanol was stirred at 80° C. for 2 days. The reaction mixture was concentrated and the title compound was obtained as a off-white solid after flash column chromatography (silica gel, heptane/ethyl acetate (3/7, v/v)), Rf=0.51).

reactant | 3,5-dibromo-4-hydroxybenzaldehyde | 0.28 g | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | 1-bromomethyl-3-methoxybenzene | 0.15 mL | BrCC1=CC(=CC=C1)OC | C8H9BrO
reactant | potassium carbonate | 0.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 42 mg | [I-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3,5-dibromo-4-(3-methoxybenzyloxy)-benzaldehyde | BrC=1C=C(C=O)C=C(C1OCC1=CC(=CC=C1)OC)Br | C15H12Br2O3
